US05514691
2,5-Dimethyl-N-(4-chloro-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-chloro-3-methylisoxazole and 2,5-dimethylbenzenesulfonyl chloride according to the procedures described in Example 1b. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a light yellow solid, m.p. 92°-93° C., yield 82%.

reactant | 5-amino-4-chloro-3-methylisoxazole | NC1=C(C(=NO1)C)Cl | C4H5ClN2O
reactant | 2,5-dimethylbenzenesulfonyl chloride | CC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C8H9ClO2S
product | 2,5-Dimethyl-N-(4-chloro-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 82% | CC1=C(C=C(C=C1)C)S(=O)(=O)NC1=C(C(=NO1)C)Cl | C12H13ClN2O3S
